US08912365B2
A stirred autoclave was charged, at room temperature, with 66.75 g (725 mmol) of glycerol, 2.05 g (17.6 mmol) of caproic acid, 0.20 g (10 wt %) of AMBERLYST® (a polymer based catalyst) 35 resin and 0.39 g (1.0 mol %) of Pd/C at 5%. The autoclave was then pressurized at 50 bar of dihydrogen gas H2, and then it was heated at 120° C. for 16 h, stirring vigorously. After 16 h of reaction, the reaction mixture was brought back to room temperature. The catalyst was then filtered on a MILLIPORE® filter (a membrane filter) (0.45 μm) and was rinsed with absolute ethanol. The solvents were then evaporated and the organic products were extracted from the glycerol phase by extraction with CH2Cl2 (3×50 ml). The organic phase was washed with water (2×20 ml) and the CH2Cl2 was then evaporated at reduced pressure. The crude reaction product was purified on a flash silica column (eluent:cyclohexane/ethyl acetate=4:1˜1:1). 1-O-hexyl-glycerol ether was obtained at an isolated yield of 70%.

reactant | glycerol | 725 mmol, 66.75 g | OCC(O)CO | C3H8O3
reactant | caproic acid | 17.6 mmol, 2.05 g | C(CCCCC)(=O)O | C6H12O2
catalyst | Pd/C | 0.39 g | [Pd] | Pd
product | 1-O-hexyl-glycerol ether | yield of 70% | C(CCCCC)OCC(O)CO.CCOCC | InChI=1S/C9H20O3.C4H10O/c1-2-3-4-5-6-12-8-9(11)7-10;1-3-5-4-2/h9-11H,2-8H2,1H3;3-4H2,1-2H3
